US05051498
Synthesis of N4 -dimethylaminomethylene-2',3'-dideoxy-3'-fluorocytidine.
Previously dried 2',3'-dideoxy-3'-fluorocytidine (300 mg, 1.3 mmoles) was treated with dimethylformamide dimethylacetal (0.45 g, 3.8 mmoles) in anhydrous DMF (5 mL) under a nitrogen atmosphere. The contents were stirred overnight and the solvents removed by rotary evaporation. The syrupy residue remaining was crystallized from ethanol to give white crystals (276 mg, 75%) of the product N4 -dimethylaminomethylene-2',3'-dideoxy-3'-fluorocytidine which were shown to have the following properties:

reactant | 2',3'-dideoxy-3'-fluorocytidine | 1.3 mmoles, 300 mg | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1 | C9H12FN3O3
reactant | dimethylformamide dimethylacetal | 3.8 mmoles, 0.45 g | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N4 -dimethylaminomethylene-2',3'-dideoxy-3'-fluorocytidine | 276 mg, 75% | CN(C)C=NC1=NC(N([C@H]2C[C@@H]([C@@H](CO)O2)F)C=C1)=O | C12H17FN4O3
